US08236808B2
Step 2: 3,5-Diamino-6-chloro-pyrazine-2-carboxylic acid {2-[(4-amino-butyl)-methyl-amino]-ethyl}-amide
[4-({2-[(3,5-Diamino-6-chloro-pyrazine-2-carbonyl)-amino]-ethyl}-methyl-amino)-butyl]-carbamic acid tert-butyl ester (0.54 g, 2.2 mmol) in DCM (10 mL) and TFA (2 mL) is stirred at RT for 1 h. The solvent is removed in vacuo and the resulting oil is dissolved in saturated aqueous sodium carbonate solution. The mixture is concentrated in vacuo and the residue is dissolved in MeOH and filtered to remove the sodium carbonate. The filtrate is concentrated in vacuo to afford the title compound. [M+H]+ 316

reactant | [4-({2-[(3,5-Diamino-6-chloro-pyrazine-2-carbonyl)-amino]-ethyl}-methyl-amino)-butyl]-carbamic acid tert-butyl ester | 2.2 mmol, 0.54 g | C(C)(C)(C)OC(NCCCCN(C)CCNC(=O)C1=NC(=C(N=C1N)N)Cl)=O | C17H30ClN7O3
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 3,5-Diamino-6-chloro-pyrazine-2-carboxylic acid {2-[(4-amino-butyl)-methyl-amino]-ethyl}-amide | NCCCCN(CCNC(=O)C1=NC(=C(N=C1N)N)Cl)C | C12H22ClN7O
